US07951828B1
Step 2: Production of N-acetyl-N-(6-chloro-2-pyridyl)-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methyl benzoic acid amide
In a suspension of 0.10 g of 55% oily sodium hydride suspended in 15 mL of N,N-dimethylformamide, a solution of 0.30 g of N-(6-chloro-2-pyridyl)-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole-3-yl]-2-methyl benzoic acid amide in 5 mL of N,N-dimethylformamide was added under cooling with ice and with stirring, and stirred at the same temperature for 10 minutes. After ceasing the generation of hydrogen gas, 0.30 g of acetyl chloride was added, ice bath was removed and continued to stir further for 5 minutes. After the completion of the reaction, the reaction mixture was poured in 20 mL of ice water, extracted with ethyl acetate (50 mL×1), the organic phase was dehydrated with and dried over saturated sodium chloride aqueous solution and then anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography that was eluated with ethyl acetate-hexane (1:2) to obtain 0.11 g of the aimed product as colorless resinous substance.

reactant | sodium hydride | 0.10 g | [H-].[Na+]
reactant | N-(6-chloro-2-pyridyl)-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole-3-yl]-2-methyl benzoic acid amide | 0.30 g | ClC1=CC=CC(=N1)NC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C23H15Cl3F3N3O2
reactant | hydrogen | [H][H] | H2
reactant | acetyl chloride | 0.30 g | C(C)(=O)Cl | C2H3ClO
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-acetyl-N-(6-chloro-2-pyridyl)-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methyl benzoic acid amide | 0.11 g | C(C)(=O)N(C(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O)C1=NC(=CC=C1)Cl | C25H17Cl3F3N3O3
